Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Naproxen / Flexeril
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with history of nonischemic cardiomyopathy and mild CAD 
presents with chest discomfort and palpitations.  She reports 
having an episode of palpitations last night which resolved on 
its own.  This morning when she was walking from the grocery 
store to her car, she had a sudden onset of chest tightness and 
heaviness and feeling SOB.  She had no associated nausea, 
vomiting, diaphoresis.  The pain did not radiate anywhere.  She 
rested in her car for ___ minutes, but the pain persisted, so 
she called ___.  EMS gave her a full aspirin and 2 SL NTG with 
resolution of her symptoms.  Her EKG was without ischemic 
changes, but showed frequent PVCs.  Patient was admited for rule 
out of myocardial infarction.  Currently enzymes negative x1.
.
Patient has had these symptoms occassionally in the past which 
prompted her cardiac cath.  Per patient, once Dr. ___ 
___ her carvedilol dosage, the symptoms stopped recurring.
.
On evaluation on the floor, pt is feeling well.  No current 
chest pain, SOB, n/v, dizziness, palpitations.

 
Past Medical History:
- Mild cardiomyopathy (global hypo; LVEF 45-50%; echo ___
- Mild coronary artery disease (20% ostial LM; neg ETT-echo 
___
- Vertigo
- Migraines (none since ___
- Right ankle fracture ___ - mechanical)
- Recurrent left wrist ganglia
- Claustophobia (subsequent to rape)
 
Social History:
___
Family History:
- Father - CAD with first MI in his ___
- Mother - throat cancer
- Sister - bipolar disorder, brain tumor, seizure disorder
 
Physical Exam:
VS: 97.9, 117/82, 82, 18, 99% RA
GENERAL: WDWN female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: PERRL, EOMI, MMM, no LAD, neck supple, no JVD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
STRESS MIBI ___
IMPRESSION: No anginal symptoms and no ischemic ECG changes to a 
good 
exercise capacity. Ventricular ectopy as outlined. Nuclear 
report sent 
separately. 
IMPRESSION: 1. No definite reversible myocardial perfusion 
defects at the level of exercise achieved. 2. Enlarged left 
ventricular cavity, global 
hyopkinesis and decreased left ventricular EF of 36%.  

CBC
___ 06:20AM BLOOD WBC-3.7* RBC-4.46 Hgb-14.2 Hct-42.0 
MCV-94 MCH-31.8 MCHC-33.7 RDW-14.1 Plt ___
___ 10:34AM BLOOD WBC-3.7* RBC-4.31 Hgb-13.4 Hct-39.2 
MCV-91 MCH-31.1 MCHC-34.2 RDW-15.3 Plt ___

Chemistry
___ 06:20AM BLOOD Glucose-90 UreaN-13 Creat-1.0 Na-139 
K-4.2 Cl-105 HCO3-25 AnGap-13
___ 10:34AM BLOOD Glucose-101* UreaN-14 Creat-0.9 Na-139 
K-4.0 Cl-108 HCO3-23 AnGap-12

Cardiac Enzymes
___ 06:20AM BLOOD CK(CPK)-81
___ 05:18PM BLOOD CK(CPK)-102
___ 06:20AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 05:18PM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:34AM BLOOD cTropnT-<0.___ yo F with history of nonischemic cardiomyopathy and mild CAD 
presents with chest discomfort and palpitations  
.  
# CORONARIES/Mild CAD: Patient presents with exertional chest 
pain, has a history of minimal left main disease (20% ostial LM) 
and a strong family history of CAD. Lipid profile from ___ 
shows: TC 138, ___ 57, HDL 61, LDL 66. Cardiac enzymes negative 
x3 on this admission with no ischemic EKG changes.  Received 
stress MIBI which showed  no definite reversible myocardial 
perfusion defects, global hypokinesis, and decreased left 
ventricular EF of 36%.  Patient was continued on ASA, 
simvastatin, carvedilol, and lisinopril.
.  
# PUMP/Nonischemic cardiomyopathy: Patient has a history of 
nonischemic cardiomyopathy.  She appeared clinically euvolemic 
on this admission.  Her LVEF have been stable at 45-50% in the 
past, but stress MIBI on this admission calculated LVEF to be 
36%.  Patient will continue home regimen of carvedilol and 
follow up with Dr. ___ as an outpatient.
.  
# RHYTHM: Patient found to have bigeminal PVCs initially, but 
resumed a normal sinus rhythm.
.  
# h/o ankle fracture - patient was continued on Vitamin D
 
Medications on Admission:
CARVEDILOL 25 mg BID
LISINOPRIL 10 mg daily
SIMVASTATIN 10 mg daily
ASPIRIN 81 mg daily
VITAMIN D, dose unknown, daily
 
Discharge Medications:
1. Carvedilol 12.5 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
2. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Noncardiac chest pain
- Non-ischemic dilated cardiomyopathy

Secondary Diagnosis:
- Vertigo
- Migraines (none since ___
- Right ankle fracture ___ - mechanical)
- Recurrent left wrist ganglia
- Claustophobia (subsequent to rape)
- Mild coronary artery disease (20% ostial LM; neg ETT-echo 
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for 
chest pain.  We monitored you on telemetry and ruled you out for 
a heart attack.  During this admission, we also performed a 
nuclear stress test during which you had no cardiac symptoms and 
it showed normal perfusion of your heart but slightly reduced 
ejection fraction.  

Your medications have not changed, please continue to take them 
as originally prescribed.
 
Followup Instructions:
___